US04259336
4-Hydroxy-2-methyl-N-(5-methyl-1,3,4-thiadiazole-2-yl)-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide
Prepared analogous to Example 1 from methyl 4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide and 2-amino-5-methyl-1,3,4-thiadiazole with a yield of 65% of theory.

reactant | methyl 4-hydroxy-2-methyl-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxylate-1,1-dioxide | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)OC | C13H11NO5S2
reactant | 2-amino-5-methyl-1,3,4-thiadiazole | NC=1SC(=NN1)C | C3H5N3S
product | 4-Hydroxy-2-methyl-N-(5-methyl-1,3,4-thiadiazole-2-yl)-2H-[1] benzothieno [2,3-e]-1,2-thiazine-3-carboxamide-1,1-dioxide | yield of 65% | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)NC=1SC(=NN1)C | C15H12N4O4S3
